US04211772
Esculin Acetonide (Compound No. 15)
A solution of 10 grams of esculin, 50 cc of dimethylformamide and 50 cc of acetone is cooled to 0° C. While maintaining the temperature at 0° C., 10 cc of methyl chloroformate are added dropwise. This procedure is repeated at the end of 3 hours. The mixture is kept overnight at ambient temperature with agitation. It is then cooled to 0° C. and neutralized with a minimum quantity of methanolic sodium hydroxide. The solvents are removed by evaporation and the residue is dissolved in water. The acetonide is extracted with ethyl acetate. The ethyl acetate extracts are dried and evaporated. The crude product is purified by column chromotography on polyamide SC6. The acetonide is then dried under vacuum at 100° C.

reactant | esculin | 10 grams | C1=C2C(=CC(=C1O[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O)OC(=O)C=C2 | C15H16O9
reactant | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
reactant | methyl chloroformate | 10 cc | ClC(=O)OC | C2H3ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetone | 50 cc | CC(=O)C | C3H6O
product | Esculin Acetonide | C1=C2C(=CC(=C1O[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O)OC(=O)C=C2.[CH2-]C(=O)C | InChI=1S/C15H16O9.C3H5O/c16-5-10-12(19)13(20)14(21)15(24-10)23-9-3-6-1-2-11(18)22-8(6)4-7(9)17;1-3(2)4/h1-4,10,12-17,19-21H,5H2;1H2,2H3/q;-1/t10-,12-,13+,14-,15-;/m1./s1
